US07524860B2
A mixture of N-methyl-cyclohexylamine (4 mL) and 5-chloro-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine, which may be produced as in Example 1A, (300 mg, 1.22 mmol) was microwaved at 200° C. for 3 h. On cooling, the product was triturated with toluene/cyclohexane then taken up in CH2Cl2 and washed with aqueous Na2CO3. The organic layer was separated, dried (MgSO4), and concentrated to produce N5-cyclohexyl-N5-methyl-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-2,5-diamine. MS m/z 323 (M+H+).

reactant | N-methyl-cyclohexylamine | 4 mL | CNC1CCCCC1 | C7H15N
reactant | 5-chloro-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | ClC1=CC(=CC=2N1N=C(N2)N)C=2C=NC=CC2 | C11H8ClN5
product | N5-cyclohexyl-N5-methyl-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-2,5-diamine | C1(CCCCC1)N(C1=CC(=CC=2N1N=C(N2)N)C=2C=NC=CC2)C | C18H22N6
